US04617312
2-Methyl-4-Chloroanisole
To a suspension of 2-methoxy-5-chlorobenzaldehyde (34.5 g, 0.202 mole) in bis-(2-hydroxyethyl)ether (225 ml) was added hydrazine hydrate (17.7 g, 0.353 mole) and the mixture heated on a 125° C. oil bath for 15 minutes. It was then cooled to 50° C. and powdered potassium hydroxide (15.5 g of 85%, 0.24 mole) added. The mixture was heated on a 165° C. oil bath for 30 minutes. After it had cooled to room temperature it was poured into water (600 ml) and the aqueous solution acidified by addition of 6N HCl. Carbon tetrachloride (4×100 ml) extractions of the acid solution, followed by washing the pooled extracts with brine (1×100 ml), drying (MgSO4) and concentration in vacuo gave a clear viscous oil which crystallized upon addition of a small volume of petroleum ether and chilling in an ice bath. The white crystals were filtered and dried in vacuo. Yield=24.7 g (78 %); m.p. 35°-37° C.

reactant | 2-methoxy-5-chlorobenzaldehyde | 0.202 mole, 34.5 g | COC1=C(C=O)C=C(C=C1)Cl | C8H7ClO2
reactant | hydrazine hydrate | 0.353 mole, 17.7 g | O.NN
reactant | potassium hydroxide | 0.24 mole, 15.5 g | [OH-].[K+]
reactant | HCl | 6N | Cl | ClH
solvent | bis-(2-hydroxyethyl)ether | 225 ml | OCCOCCO | C4H10O3
solvent | water | 600 ml | O | H2O
product | 2-Methyl-4-Chloroanisole | CC1=C(C=CC(=C1)Cl)OC | C8H9ClO
